US08030322B2
Preparation 10: 5-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]hydrochloride salt (Prep10)
To a solution of tert-butyl 5-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-1′-carboxylate (Prep9, 900 mg, 2.93 mol) in methanol (10 ml), HCl/CH3OH (10 ml, 3M in methanol) was added and stirred overnight at room temperature. The solvent was evaporated in vacuo to give the title compound (500 mg, y=82%).

reactant | tert-butyl 5-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]-1′-carboxylate | 2.93 mol, 900 mg | ClC=1C=C2CCC3(CN(CC3)C(=O)OC(C)(C)C)C2=CC1 | C17H22ClNO2
solvent | methanol | 10 ml | CO | CH4O
solvent | HCl CH3OH | 3M, 10 ml | Cl.CO
product | 5-chloro-2,3-dihydrospiro[indene-1,3′-pyrrolidine]hydrochloride salt | 500 mg, 82% | Cl.ClC=1C=C2CCC3(CNCC3)C2=CC1 | InChI=1S/C12H14ClN.ClH/c13-10-1-2-11-9(7-10)3-4-12(11)5-6-14-8-12;/h1-2,7,14H,3-6,8H2;1H
